US07456175B2
Step 2: [2-(4-Isopropyl-piperazin-1-yl)-pyridin-4-yl]-methyl-amine hydrochloride
A mixture of 2.5 g (9 mmol) N-[2-(4-isopropyl-piperazin-1-yl)-pyridin-4-yl]-N-methyl-acetamide and 10 ml 4N HCl in 5 ml water and 25 ml dioxane was stirred at room temperature. After evaporation of the volatiles the residue was triturated with a mixture formed from acetone and dioxane and dried under vacuum to yield 1.8 g (76%) of the title compound (intermediate 11) as light red solid. MS: (m/e): 235.2 (MH+).

reactant | N-[2-(4-isopropyl-piperazin-1-yl)-pyridin-4-yl]-N-methyl-acetamide | 9 mmol, 2.5 g | C(C)(C)N1CCN(CC1)C1=NC=CC(=C1)N(C(C)=O)C | C15H24N4O
reactant | HCl | 4N, 10 ml | Cl | ClH
solvent | water | 5 ml | O | H2O
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | [2-(4-Isopropyl-piperazin-1-yl)-pyridin-4-yl]-methyl-amine hydrochloride | 1.8 g, 76% | Cl.C(C)(C)N1CCN(CC1)C1=NC=CC(=C1)NC | InChI=1S/C13H22N4.ClH/c1-11(2)16-6-8-17(9-7-16)13-10-12(14-3)4-5-15-13;/h4-5,10-11H,6-9H2,1-3H3,(H,14,15);1H
